US07700599B2
1,1-Dimethylethyl (2S)-4-({4-[({5-[(4-fluorophenyl)oxy]-2-pyridinyl}carbonyl)(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D73)
1,1-Dimethylethyl (2S)-4-({4-[[(5-bromo-2-pyridinyl)carbonyl](methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D72) (0.2 g, 0.397 mmol), 4-fluorophenol (0.089 g, 0.794 mmol), cesium carbonate (0.259 g, 0.794 mmol) and 2,2,6,6-tetramethyl-3,5-heptanedione (TMHD) (0.008 g, 0.040 mmol) were combined in NMP (3 mL) under argon. Copper (I) chloride (0.02 g, 0.199 mmol) was added and the mixture heated at 120° C. overnight. A second portion of 4-fluorophenol, copper (I) chloride, cesium carbonate and TMHD was added and heating continued at 120° C. overnight. After cooling to room temperature, the mixture was partially concentrated, the residue was taken up in EtOAc and washed with saturated aqueous NaHCO3 and water. The organic layer was dried and concentrated to give the crude product which was purified by column chromatography. Elution with 0-50% ethyl acetate/petroleum ether yielded the title compound as a yellow oil (0.161 g). δH (CDCl3, 400 MHz) 8.04 (1H, br.s), 7.49 (1H, br.d), 7.20 (2H, d), 7.00 (7H, m), 4.17 (1H, br.s), 3.79 (1H, d), 3.51 (3H, s), 3.47 (1H, d), 3.33 (1H, d), 3.08 (1H, td), 2.69 (1H, d), 2.51 (1H, d), 2.10 (1H, dd), 1.99 (1H, m), 1.46 (9H, s), 1.19 (3H, d). MS (ES): MH+ 535.4.

reactant | 1,1-Dimethylethyl (2S)-4-({4-[[(5-bromo-2-pyridinyl)carbonyl](methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | 0.397 mmol, 0.2 g | BrC=1C=CC(=NC1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C24H31BrN4O3
reactant | 4-fluorophenol | 0.794 mmol, 0.089 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | cesium carbonate | 0.794 mmol, 0.259 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.040 mmol, 0.008 g | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
catalyst | Copper (I) chloride | 0.199 mmol, 0.02 g | [Cu]Cl
product | 1,1-Dimethylethyl (2S)-4-({4-[({5-[(4-fluorophenyl)oxy]-2-pyridinyl}carbonyl)(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | 0.161 g | FC1=CC=C(C=C1)OC=1C=CC(=NC1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C30H35FN4O4
